* CD4017 decade counter (XSPICE digital, thresholds for 5 V supply) - multysm core pack
* Five-stage Johnson counter clocked on CLK rising edges while INH is low; RST is asynchronous.
* Subcircuit pin order follows the DIP: Q5 Q1 Q0 Q2 Q6 Q7 Q3 VSS Q8 Q4 Q9 CO INH CLK RST VDD
.subckt CD4017 q5 q1 q0 q2 q6 q7 q3 vss q8 q4 q9 co inh clk rst vdd
Rpwr vdd vss 1e6
Ain [clk inh rst] [dclk dinh drst] cmos_in
Aclk [dclk ~dinh] dce cmos_and
Af1 s5n dce null drst s1 s1n cmos_dff
Af2 s1 dce null drst s2 s2n cmos_dff
Af3 s2 dce null drst s3 s3n cmos_dff
Af4 s3 dce null drst s4 s4n cmos_dff
Af5 s4 dce null drst s5 s5n cmos_dff
Ad0 [s1n s5n] d0 cmos_and
Ad1 [s1 s2n] d1 cmos_and
Ad2 [s2 s3n] d2 cmos_and
Ad3 [s3 s4n] d3 cmos_and
Ad4 [s4 s5n] d4 cmos_and
Ad5 [s1 s5] d5 cmos_and
Ad6 [s1n s2] d6 cmos_and
Ad7 [s2n s3] d7 cmos_and
Ad8 [s3n s4] d8 cmos_and
Ad9 [s4n s5] d9 cmos_and
Aco s5n dco cmos_buf
Aout [d0 d1 d2 d3 d4 d5 d6 d7 d8 d9 dco] [q0 q1 q2 q3 q4 q5 q6 q7 q8 q9 co] cmos_out
.model cmos_in adc_bridge(in_low=1.5 in_high=3.5)
.model cmos_out dac_bridge(out_low=0.05 out_high=4.95 out_undef=2.5)
.model cmos_and d_and(rise_delay=20n fall_delay=20n)
.model cmos_buf d_buffer(rise_delay=20n fall_delay=20n)
.model cmos_dff d_dff(clk_delay=20n reset_delay=20n ic=0)
.ends CD4017
