* Meters and probes - multysm core pack (not vendor models).
* Readouts on the canvas arrive with the simulation UI; these only add harmless elements.
.subckt VMETER p n
R1 p n 10Meg
.ends VMETER
.subckt AMMETER p n
Vsense p n DC 0
.ends AMMETER
.subckt PROBE p
R1 p 0 1e12
.ends PROBE
