* Potentiometer - multysm core pack (not a vendor model).
* R is the total resistance; P is the wiper position from pin 1 (0..1).
.subckt POT a w b params: R=10000 P=0.5
R1 a w {max(R*min(max(P, 0), 1), 1e-3)}
R2 w b {max(R*(1 - min(max(P, 0), 1)), 1e-3)}
.ends POT
