* 7404 hex inverter (XSPICE digital) - multysm core pack
.subckt SN7404 a1 y1 a2 y2 a3 y3 gnd y4 a4 y5 a5 y6 a6 vcc
Rpwr vcc gnd 1e6
Ain [a1 a2 a3 a4 a5 a6] [da1 da2 da3 da4 da5 da6] ttl_in
Ag1 da1 dy1 ttl_inv
Ag2 da2 dy2 ttl_inv
Ag3 da3 dy3 ttl_inv
Ag4 da4 dy4 ttl_inv
Ag5 da5 dy5 ttl_inv
Ag6 da6 dy6 ttl_inv
Aout [dy1 dy2 dy3 dy4 dy5 dy6] [y1 y2 y3 y4 y5 y6] ttl_out
.model ttl_in adc_bridge(in_low=0.8 in_high=2.0)
.model ttl_out dac_bridge(out_low=0.2 out_high=3.4 out_undef=1.8)
.model ttl_inv d_inverter(rise_delay=10n fall_delay=10n)
.ends SN7404
