* Ideal switches - multysm core pack (not vendor models).
* S is the state from the part's choice param: 0 or 1.
.subckt SW_SPST a b params: S=0
R1 a b {ternary_fcn(S > 0.5, 1e-3, 1e12)}
.ends SW_SPST
.subckt SW_SPDT c a b params: S=0
R1 c a {ternary_fcn(S > 0.5, 1e12, 1e-3)}
R2 c b {ternary_fcn(S > 0.5, 1e-3, 1e12)}
.ends SW_SPDT
